US07375204B2
1-(Chloromethyl)-2-iodobenzene
Methanesulfonyl chloride (2.0 ml, 29 mmol) and triethylamine (3.6 ml, 26 mmol) were added to a solution of o-iodobenzyl alcohol (5.0 g, 21 mmol) in methylene chloride (50 ml) cooled to 0° C., and the mixture was stirred at that temperature for 19 hours. A 5% aqueous sodium hydrogencarbonate solution was added, and the resulting mixture was extracted with methylene chloride. The methylene chloride layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (5.34 g).

reactant | Methanesulfonyl chloride | 29 mmol, 2.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 26 mmol, 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | o-iodobenzyl alcohol | 21 mmol, 5.0 g | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(Chloromethyl)-2-iodobenzene | 5.34 g | ClCC1=C(C=CC=C1)I | C7H6ClI
